US07157464B2
Synthesis of 2-(4-Chloro-3-trifluoromethyl-pyrazol-1-yl)-1-[4-(4-fluoro-phenyl)-piperazin-1-yl]-ethanone
Protocol T was followed using 4-Chloro-3-trifluoromethyl-1H-pyrazole, K2CO3, 2-Chloro-1-[4-(4-fluoro-phenyl)-piperazin-1-yl]-ethanone and DMF. Column chromatography using a solvent mixture (hexane/ethyl acetate=1/1) afforded the title compound as colorless oil. 1H NMR (400 MHz, CDCl3): 7.64–7.68 (d, 1H), 6.98–7.4 (m, 2H), 6.86–6.92 (m, 2H), 6.98–7.2 (m, 1H), 5.4 (s, 2H), 3.78–3.84 (m, 2H), 3.68–3.92 (m, 2H), 3–3.1 (m, 4H). 13C NMR (400 MHz, CDCl3): 164.4, 158, 152.2, 144, 132, 118.2, 116, 54, 50.2, 50.0, 46.0, 42.2.

reactant | 4-Chloro-3-trifluoromethyl-1H-pyrazole | ClC=1C(=NNC1)C(F)(F)F | C4H2ClF3N2
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-Chloro-1-[4-(4-fluoro-phenyl)-piperazin-1-yl]-ethanone | ClCC(=O)N1CCN(CC1)C1=CC=C(C=C1)F | C12H14ClFN2O
reactant | DMF | CN(C)C=O | C3H7NO
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
product | 2-(4-Chloro-3-trifluoromethyl-pyrazol-1-yl)-1-[4-(4-fluoro-phenyl)-piperazin-1-yl]-ethanone | ClC=1C(=NN(C1)CC(=O)N1CCN(CC1)C1=CC=C(C=C1)F)C(F)(F)F | C16H15ClF4N4O
